US04758574
2-(2,4-Dimethoxyphenyl)imidazo[4,5-c]pyridine hydrochloride
A mixture of 3,4-diaminopyridine (10.90 g., 100 mmoles) and 2,4-dimethoxybenzoic acid (18.20 g., 100 mmoles) was added to 400 ml. of phosphorous oxychloride and the resulting mixture was heated to reflux for about 4 hours. After cooling, the excess phosphorous oxychloride was removed under reduced pressure and the residue was treated with 200 ml. of 1N hydrochloric acid. The resulting solution was neutralized with 50% aqueous sodium hydroxide and the precipitated product was collected by filtration. Flash chromatography over silica gel (methylene chloride/methanol, 15:1) and recrystallization from ethanol/water saturated with hydrogen chloride gave the title product (16.54 g., 57% yield) as light tan needles, m.p. about 231°-234° C.

reactant | 3,4-diaminopyridine | 100 mmoles, 10.90 g | NC=1C=NC=CC1N | C5H7N3
reactant | 2,4-dimethoxybenzoic acid | 100 mmoles, 18.20 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2,4-Dimethoxyphenyl)imidazo[4,5-c]pyridine hydrochloride | 16.54 g, 57% yield | Cl.COC1=C(C=CC(=C1)OC)C=1NC2=C(C=NC=C2)N1 | InChI=1S/C14H13N3O2.ClH/c1-18-9-3-4-10(13(7-9)19-2)14-16-11-5-6-15-8-12(11)17-14;/h3-8H,1-2H3,(H,16,17);1H
